US05726319
Step D: (R)-α-[Amino]-N-methyl-N-[(2'-cyano)-[1,1'-biphenyl]-4-yl]benzenebutanamide
(R)-α-[N-(9-Fluorenylmethoxycarbonyl)amino]-benzenebutanoic acid (500 mg; 1.25 mmol), was converted into its corresponding acid chloride according to the procedure descibed in Example 33, Step F using 1 drop of DMF, oxalyl chloride (136 μl) in methylene chloride (2.5 ml). A yellow solid which was the acid chloride (525 mg) was obtained and used without further purification. A portion of the acid chloride (222.8 mg; 0.528 mmol) was added to 4-[N-methylamino]-2'-cyano-1,1'-biphenyl (110 mg; 0.528 mmol) were dissolved in methylene chloride (1 ml) and stirred together for 2 h at room temperature. Triethylamine (73.6 μl; 0.528 mmol) was added and the reaction mixture stirred for a further 6 h. The reaction was quenched with 4-(aminomethyl)-piperidine (0.5 ml) and stirred for 15 minutes and then partitioned between water and methylene chloride. The organic phase was separated, dried over powdered potassium carbonate. The volatiles were removed under reduced pressure and the residues chromatographed on silica gel using ethyl acetate and then ethyl acetate and methanol 9:1 v/v. The yield of the desired product was 60.2 mg (30.8%). FAB-MS:- calculated for C24H23N30 369.2 found 370.0 (M+1).

reactant | (R)-α-[N-(9-Fluorenylmethoxycarbonyl)amino]-benzenebutanoic acid | 1.25 mmol, 500 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(=O)O)CCC1=CC=CC=C1 | C25H23NO4
reactant | oxalyl chloride | 136 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-[N-methylamino]-2'-cyano-1,1'-biphenyl | 0.528 mmol, 110 mg | CNC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H12N2
reactant | Triethylamine | 0.528 mmol, 73.6 μl | C(C)N(CC)CC | C6H15N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | (R)-α-[Amino]-N-methyl-N-[(2'-cyano)-[1,1'-biphenyl]-4-yl]benzenebutanamide | N[C@@H](C(=O)N(C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C)CCC1=CC=CC=C1 | C24H23N3O
